US07157455B2
The same procedure as described in Example 17 was used, starting from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone trifluoroacetic acid salt, Example 11, and propylchloroformate (Aldrich), to afford 4-[4-amino-5-(2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid propyl ester. HRMS, observed: 414.2140; Calcd for (M+H)+: 414.2136.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone trifluoroacetic acid salt | FC(C(=O)O)(F)F.NC1=NC(=NC=C1C(=O)C1=C(C=CC=C1)OC)NC1CCNCC1
reactant | propylchloroformate | C(CC)OC(=O)Cl | C4H7ClO2
product | 4-[4-amino-5-(2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid propyl ester | C(CC)OC(=O)N1CCC(CC1)NC1=NC=C(C(=N1)N)C(C1=C(C=CC=C1)OC)=O | C21H27N5O4
